US04604389
N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-3-(phenylamino)-propylamine
The title compound is prepared from 3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-1-chloropropane and 3-phenylamino-propylamine in the presence of triethylamine analogously to Example 1.

reactant | 3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-1-chloropropane | COC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1OC | C15H20ClNO3
reactant | 3-phenylamino-propylamine | C1(=CC=CC=C1)NCCCN | C9H14N2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-3-(phenylamino)-propylamine | COC1=CC2=C(CC(N(CC2)CCCNCCCNC2=CC=CC=C2)=O)C=C1OC | C24H33N3O3
